US06291682B1
7. Methyl 4-hydroxy-8-methylthiochromane-7-carboxylate
30 g (0.127 mol) of methyl 8-methylthiochroman-4-one-7-carboxylate are dissolved in a mixture of 120 ml of methylene chloride and 60 ml of methanol and the solution is cooled to 0-5° C. 2.4 g (0.064 mol) of sodium borohydride are then added a little at a time. Stirring is continued at this temperature for one hour. 200 ml of 2N hydrochloric acid are added to the reaction solution. This gives two phases. The organic phase is separated off and dried and the solvent is distilled off. The crude product is further reacted directly without further purification.

reactant | methyl 8-methylthiochroman-4-one-7-carboxylate | 0.127 mol, 30 g | CC=1C(=CC=C2C(CCSC12)=O)C(=O)OC | C12H12O3S
reactant | sodium borohydride | 0.064 mol, 2.4 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2N, 200 ml | Cl | ClH
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 60 ml | CO | CH4O
product | Methyl 4-hydroxy-8-methylthiochromane-7-carboxylate | OC1CCSC2=C(C(=CC=C12)C(=O)OC)C | C12H14O3S
